US04740455
Synthesis of 5,6-dichloro-1-ethyl-2-methyl-3-(2-succinimidoethyl)benzoimidazolium bromide
11.5 g of 5,6-dichloro-1-ethyl-2-methylbenzoimidazole and 20.6 g of N-(2-bromoethyl)succinimide were put into a 200-ml three-necked flask equipped with a stirrer and a reflux condenser and heated for 2 hours on an oil bath which has been heated to a temperature of 130° C. 10 ml of anisole was added to the mixture. The admixture was then allowed to stand for cooling. 50 ml of ethyl acetate was added to the admixture. The admixture was then refluxed for 30 minutes. After being allowed to cool to room temperature, the resulting crystal was filtered off, washed with acetone, and then dried at a temperature of 50° C. for 5 hours. Yield: 18.7 g (86%).

reactant | 5,6-dichloro-1-ethyl-2-methylbenzoimidazole | 11.5 g | ClC1=CC2=C(N(C(=N2)C)CC)C=C1Cl | C10H10Cl2N2
reactant | N-(2-bromoethyl)succinimide | 20.6 g | BrCCN1C(CCC1=O)=O | C6H8BrNO2
reactant | anisole | 10 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 5,6-dichloro-1-ethyl-2-methyl-3-(2-succinimidoethyl)benzoimidazolium bromide | [Br-].ClC1=CC2=C([N+](=C(N2CCN2C(CCC2=O)=O)C)CC)C=C1Cl | InChI=1S/C16H18Cl2N3O2.BrH/c1-3-19-10(2)20(6-7-21-15(22)4-5-16(21)23)14-9-12(18)11(17)8-13(14)19;/h8-9H,3-7H2,1-2H3;1H/q+1;/p-1
